US04826987
B. 2,3-Dichloro-4-hydroxy-N-n-butylaniline
To a stirred solution of 2,3-dichloro-4-methoxy-N-n-butylaniline (8.5 g) in 1,1,2,2-tetrachloroethane (80 ml) is added anhydrous aluminium chloride (8.5 g), and the mixture is refluxed for about 40 hours. The resulting mixture is poured into ice/water (about 500 ml), and the precipitated material is extracted twice with methylene chloride. The combined extracts are dried and evaporated in vacuo to give the title compound as a heavy oil.

reactant | 2,3-dichloro-4-methoxy-N-n-butylaniline | 8.5 g | ClC1=C(NCCCC)C=CC(=C1Cl)OC | C11H15Cl2NO
reactant | aluminium chloride | 8.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,1,2,2-tetrachloroethane | 80 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 2,3-Dichloro-4-hydroxy-N-n-butylaniline | ClC1=C(NCCCC)C=CC(=C1Cl)O | C10H13Cl2NO
